US07125704B2
The pH of the resulting reaction mixture containing the 2-hydroxy-3-deoxy-D-gluconic acid was adjusted to 5.0 with 35% hydrochloric acid solution. Into the reaction mixture was dripped 377 g of 13% sodium hypochlorite solution to perform decarboxylation over a period of 1 hour with the reaction temperature adjusted to 35° C. The pH of the reaction mixture at this time was adjusted between 5 and 6 with acetic acid. After adding the sodium hypochlorite solution, the reaction was carried out for 1 hour to yield 69 g of 2-deoxy-D-ribose. The yield from sodium D-gluconate was 86.3%.

reactant | 2-hydroxy-3-deoxy-D-gluconic acid | OC(C(=O)O)(O)C[C@H](O)[C@H](O)CO | C6H12O7
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hypochlorite | 377 g | Cl[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-deoxy-D-ribose | 69 g | O=CC[C@H](O)[C@H](O)CO | C5H10O4
